US09212182B2
Intermediate DT: ((1R,2R,4S)-7-oxabicyclo[2.2.1]heptan-2-ylmethyl)zinc(11) iodide
The title compound was prepared in an analogous manner to tetrahydro-2H-pyran-4-yl)zinc(II) iodide except that (1R,2S,4S)-7-oxabicyclo[2.2.1]heptan-2-ylmethanol was used instead of tetrahydro-2H-pyran-4-ol in Step 1 to afford a 0.15M solution of ((1R,2R,4S)-7-oxabicyclo[2.2.1]heptan-2-ylmethyl)zinc(II) iodide in THF.

reactant | zinc(II) iodide | [I-].[Zn+2].[I-]
reactant | (1R,2S,4S)-7-oxabicyclo[2.2.1]heptan-2-ylmethanol | [C@H]12[C@@H](C[C@H](CC1)O2)CO | C7H12O2
solvent | THF | C1CCOC1 | C4H8O
product | ((1R,2R,4S)-7-oxabicyclo[2.2.1]heptan-2-ylmethyl)zinc(II) iodide | [I-].[C@H]12[C@@H](C[C@H](CC1)O2)C[Zn+] | InChI=1S/C7H11O.HI.Zn/c1-5-4-6-2-3-7(5)8-6;;/h5-7H,1-4H2;1H;/q;;+1/p-1/t5-,6+,7-;;/m1../s1
